### PR TITLE
MCS AInvs for RISCV

### PR DESCRIPTION
**Pull request by lsf37**
This PR adds `ASpec`, `Haskell`, `design-spec`, and `AInvs` to MCS. `Refine` is still to do.

### CODE REVIEW

**Comment by lsf37** [comment]
The links are failing because the website is still being moved, so it's Ok to ignore that one. And `make_spec.sh` is going to stay on bash, so we'll keep that as well. I should look into a mechanism to disable that check for this file.

File: proof/invariant-abstract/RISCV64/ArchTcbAcc_AI.thy [hunk 1]
```diff
@@ -97,6 +97,7 @@ lemma thread_set_hyp_refs_trivial [TcbAcc_AI_assms]:
          clarsimp simp: state_hyp_refs_of_def hyp_refs_of_def tcb_hyp_refs_def get_tcb_def x y[simplified tcb_arch_ref_def])
   done
 
+
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/RISCV64/ArchTcbAcc_AI.thy:100]: nitpick: extra newline?

File: proof/invariant-abstract/RISCV64/ArchUntyped_AI.thy [hunk 2]
```diff
@@ -362,6 +364,67 @@ lemma obj_is_device_vui_eq[Untyped_AI_assms]:
...
+  shows "set_object ptr ko \<lbrace>\<lambda>s. N (obj_at P p s)\<rbrace>"
+  apply (wpsimp wp: set_object_wp)
+  apply (erule rsubst[of N])
+  using assms by (clarsimp simp: obj_at_def)
+
+lemma copy_global_mappings_obj_at_other:
+  assumes ptr: "ptr \<noteq> p"
+  assumes aligned: "is_aligned ptr pt_bits"
+  shows "copy_global_mappings ptr \<lbrace>\<lambda>s. N (obj_at P p s)\<rbrace>"
+thm copy_global_mappings_def
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/RISCV64/ArchUntyped_AI.thy:379]: nitpick: remove thm

File: proof/invariant-abstract/RISCV64/ArchKernelInit_AI.thy [hunk 3]
```diff
@@ -511,6 +540,7 @@ lemma invs_A:
    apply (clarsimp simp: valid_arch_caps_def valid_asid_pool_caps_def unique_table_caps_def
                          caps_of_state_init_A_st_Null valid_table_caps_def unique_table_refs_def)
    apply (clarsimp simp: state_defs)
+
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/RISCV64/ArchKernelInit_AI.thy:543]: nitpick: extra newline?

File: proof/invariant-abstract/RISCV64/ArchDetSchedSchedule_AI.thy [hunk 4]
```diff
@@ -12,309 +12,419 @@ context Arch begin global_naming RISCV64
...
+         arch_post_modify_registers,
+         arch_get_sanitise_register_info,
+         arch_activate_idle_thread, handle_arch_fault_reply
+  for inv[wp]: P
+
+(* effects on last_machine_time *)
+crunches setIRQTrigger, maskInterrupt, storeWord, freeMemory, ackDeadlineIRQ, clearMemory,
+         ackInterrupt, hwASIDFlush, read_sbadaddr, setVSpaceRoot, sfence, plic_complete_claim
+  for machine_times[wp]: "\<lambda>s. P (last_machine_time s) (time_state s)"
+
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/RISCV64/ArchDetSchedSchedule_AI.thy:27]: nitpick: double newlines

File: proof/invariant-abstract/RISCV64/ArchFinalise_AI.thy [hunk 5]
```diff
@@ -892,12 +868,424 @@ lemma prepare_thread_delete_unlive[wp]:
...
+            | simp add: update_sk_obj_ref_def)+
+  apply (clarsimp simp: obj_at_def)
   done
 
-lemma (* finalise_cap_replaceable *) [Finalise_AI_asms]:
-  "\<lbrace>\<lambda>s. s \<turnstile> cap \<and> x = is_final_cap' cap s \<and> valid_mdb s
-        \<and> cte_wp_at ((=) cap) sl s \<and> valid_objs s \<and> sym_refs (state_refs_of s)
+lemma sched_context_maybe_unbind_ntfn_not_bound_sc:
+  "\<lbrace>ntfn_at ptr\<rbrace> sched_context_maybe_unbind_ntfn ptr
+    \<lbrace>\<lambda>y. obj_at (\<lambda>ko. \<exists>ntfn. ko = Notification ntfn \<and>
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/RISCV64/ArchFinalise_AI.thy:938]: nitpick: indentation

File: proof/invariant-abstract/RISCV64/ArchFinalise_AI.thy [hunk 6]
```diff
@@ -892,12 +868,424 @@ lemma prepare_thread_delete_unlive[wp]:
...
+  unfolding suspend_def
+  apply (simp flip: bind_assoc)
+  apply (rule hoare_seq_ext[OF sched_context_cancel_yield_to_unlive])
+  apply (simp add: bind_assoc)
+  apply (wpsimp wp: get_object_wp cancel_ipc_bound_sc_tcb_at_None)
+  done
+
+lemma unbind_maybe_notification_not_live_helper:
+  "\<lbrace>obj_at (\<lambda>ko. \<exists>ntfn. ko = Notification ntfn \<and> ntfn_sc ntfn = None) ptr\<rbrace>
+      unbind_maybe_notification ptr
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/RISCV64/ArchFinalise_AI.thy:924]: nitpcik: indentation

File: proof/invariant-abstract/RISCV64/ArchTcb_AI.thy [hunk 7]
```diff
@@ -187,105 +210,214 @@ lemma cap_delete_no_cap_to_obj_asid[wp, Tcb_AI_asms]:
...
 
+lemma thread_set_mcp_ex_nonz_cap_to[wp]:
+  "thread_set (tcb_mcpriority_update g) t \<lbrace>ex_nonz_cap_to a\<rbrace>"
+  by (wpsimp wp: ex_nonz_cap_to_pres thread_set_cte_wp_at_trivial simp: tcb_cap_cases_def) auto
+
 lemma is_nondevice_page_cap_simp[simp]:
   "is_nondevice_page_cap (ArchObjectCap (FrameCap p q s False t))"
   by (subst is_nondevice_page_cap) simp
 
+thm valid_ipc_buffer_cap_def valid_ipc_buffer_cap_arch_def
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/RISCV64/ArchTcb_AI.thy:230]: nitpick: thm

**Review by MitchellBuckley — APPROVED** [review]
Nice! I could only spot minor indentation and whitespace issues. Otherwise looks good!

**Comment by lsf37** [comment]
Thanks, I'll fix these up! There seems to be some unexpected breakage in Refine, which I'm investigating as well.

**Comment by lsf37** [comment]
> There seems to be some unexpected breakage in Refine, which I'm investigating as well.

Ok, local test is now successful again on ARM as well. `reply_bits` was set to the wrong value (had copied ARM back from RISCV and forgot to change it). There are no changes in `Refine` from the merge, which should be nice for other PRs to rebase over this one.

This is now ready to merge from my side after squashing. Any further comment from anyone before I do?

File: spec/machine/RISCV64/Platform.thy [hunk 8]
```diff
@@ -161,6 +161,9 @@ definition irqInvalid :: "irq"
   where
   "irqInvalid \<equiv> 0"
 
+definition timerIRQ :: "irq" where
+  "timerIRQ \<equiv> maxIRQ"
```
Comment (mktnk3) [inline spec/machine/RISCV64/Platform.thy:165]: Is this how it is with RISCV?

**Review by mktnk3 — APPROVED** [review]
Thanks a lot for finishing this off, Gerwin! You've done some clean up for ARM along the way, too.
Also, I can check the timerIRQ value, if we need to.

File: spec/machine/RISCV64/Platform.thy (hunk 8 above)
Comment (lsf37) [reply spec/machine/RISCV64/Platform.thy:165]: Yes, that should be correct, at least the C code defines them to [be the same](https://github.com/seL4/seL4/blob/40edd02c220249465ce78515d3493eabd7afc59c/src/arch/riscv/platform_gen.h.in#L36).

Comment (mktnk3) [reply spec/machine/RISCV64/Platform.thy:165]: I see. So, that is how it is in riscv. I guess that should be ok. We are about to add `requalify timerIRQ` in MachineExports.thy, just to mention.

Comment (lsf37) [reply spec/machine/RISCV64/Platform.thy:165]: That should be fine.

File: spec/haskell/src/SEL4/Object/CNode.lhs [hunk 9]
```diff
@@ -338,7 +338,7 @@ Determine whether the CTE is valid, and has children to be deleted. If a child i
 >         nextCTE <- withoutPreemption $ getCTE nextPtr
 >         when (cte `isMDBParentOf` nextCTE) $ do
 >             cteDelete nextPtr True
->             preemptionPoint
```
Comment (mktnk3) [inline spec/haskell/src/SEL4/Object/CNode.lhs:341]: Hmm. I should have asked this earlier, but why is this line removed?

Comment (lsf37) [reply spec/haskell/src/SEL4/Object/CNode.lhs:341]: I thought I put the line back in (was just and editor accident). Let me double check.

Comment (lsf37) [reply spec/haskell/src/SEL4/Object/CNode.lhs:341]: (Refine did pass here on the PR)

Comment (lsf37) [reply spec/haskell/src/SEL4/Object/CNode.lhs:341]: (before the squash -- so maybe I messed up something there somehow)

Comment (lsf37) [reply spec/haskell/src/SEL4/Object/CNode.lhs:341]: Yes, it seems I did, will raise another PR shortly. The version you saw before did not have the line removed (neither did the one I looked at before squashing), but I must have dropped the fix instead of squashing it. Embarrassing.

Comment (lsf37) [reply spec/haskell/src/SEL4/Object/CNode.lhs:341]: Ok, I double-checked everything else that changed since I last looked at the full diff, and those are jus the edits Mitch recommended, so this line should be the only thing that I messed up.
